US07582769B2
[2-(3-Cyclohex-3-enyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid
Prepared in accordance with the procedure for the synthesis of {2-[3-cyclopentyl-3-(trans-4-methoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid using cyclohex-3-enylamine, cyclohexanone and (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester as starting material.

reactant | {2-[3-cyclopentyl-3-(trans-4-methoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)OC | C18H27N3O4S2
reactant | cyclohex-3-enylamine | C1(CC=CCC1)N | C6H11N
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | [2-(3-Cyclohex-3-enyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CC=CCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCCCC1 | C18H25N3O3S2
